* 180nm CMOS models for Spectre, Bernhard Boser, February 2016
* Modified Boris Murmann models distributed with gm/Id starter kit, dated, January 2010
* version without flicker noise (see also cmos180_flicker.scs)
simulator lang=spectre

model nfet bsim3v3 {
1: type=n
+version = 3.1            hdif    = 0.32e-6
+tnom    = 27             tox     = 4.1e-9
+xj      = 1e-7           nch     = 2.3549e17      vth0    = 0.3618397
+k1      = 0.5916053      k2      = 3.225139e-3    k3      = 1e-3
+k3b     = 2.3938862      w0      = 1e-7           nlx     = 1.776268e-7
+dvt0w   = 0              dvt1w   = 0              dvt2w   = 0
+dvt0    = 1.3127368      dvt1    = 0.3876801      dvt2    = 0.0238708
+u0      = 256.74093      ua      = -1.585658e-9   ub      = 2.528203e-18
+uc      = 5.182125e-11   vsat    = 1.003268e5     a0      = 1.981392
+ags     = 0.4347252      b0      = 4.989266e-7    b1      = 5e-6
+keta    = -9.888408e-3   a1      = 6.164533e-4    a2      = 0.9388917
+rdsw    = 0              prwg    = 0.5            prwb    = 0
+wr      = 1              wint    = 0              lint    = 1.617316e-8
+xl      = 0              xw      = -1e-8          dwg     = -5.383413e-9
+dwb     = 9.111767e-9    voff    = -0.0854824     nfactor = 2.2420572
+cit     = 0              cdsc    = 2.4e-4         cdscd   = 0
+cdscb   = 0              eta0    = 2.981159e-3    etab    = 9.289544e-6
+dsub    = 0.0159753      pclm    = 0.7245546      pdiblc1 = 0.1568183
+pdiblc2 = 2.543351e-3    pdiblcb = -0.1           drout   = 0.7445011
+pscbe1  = 8e10           pscbe2  = 1.876443e-9    pvag    = 7.200284e-3
+delta   = 0.01           rsh     = 0              mobmod  = 1
+prt     = 0              ute     = -1.5           kt1     = -0.11
+kt1l    = 0              kt2     = 0.022          ua1     = 4.31e-9
+ub1     = -7.61e-18      uc1     = -5.6e-11       at      = 3.3e4
+wl      = 0              wln     = 1              ww      = 0
+wwn     = 1              wwl     = 0              ll      = 0
+lln     = 1              lw      = 0              lwn     = 1
+lwl     = 0              capmod  = 2              xpart   = 1
+cgdo    = 4.91e-10       cgso    = 4.91e-10       cgbo    = 1e-12
+cj      = 9.652028e-4    pb      = 0.8            mj      = 0.3836899
+cjsw    = 2.326465e-10   pbsw    = 0.8            mjsw    = 0.1253131
+cjswg   = 3.3e-10        pbswg   = 0.8            mjswg   = 0.1253131
+cf      = 0              pvth0   = -7.714081e-4   prdsw   = 0
+pk2     = 9.619963e-4    wketa   = -1.060423e-4   lketa   = -5.373522e-3
+pu0     = 4.5760891      pua     = 1.469028e-14   pub     = 1.783193e-23
+pvsat   = 1.19774e3      peta0   = 9.968409e-5    pketa   = -2.51194e-3
+cjgate  = 0              nlev    = 3              
+noimod  = 1              kf      = 0
}

model pfet bsim3v3 {
 2: type=p
+version = 3.1            hdif    = 0.32e-6
+tnom    = 27             tox     = 4.1e-9
+xj      = 1e-7           nch     = 4.1589e17      vth0    = -0.374776
+k1      = 0.5861046      k2      = 0.0264302      k3      = 0
+k3b     = 9.1168119      w0      = 1e-6           nlx     = 1.332241e-7
+dvt0w   = 0              dvt1w   = 0              dvt2w   = 0
+dvt0    = 0.6148668      dvt1    = 0.2213746      dvt2    = 0.1
+u0      = 103.636208     ua      = 1.043424e-9    ub      = 1e-21
+uc      = -1e-10         vsat    = 1.29059e5      a0      = 1.5418178
+ags     = 0.3123693      b0      = 6.199145e-7    b1      = 1.634457e-6
+keta    = 0.0313547      a1      = 0.8            a2      = 0.3746405
+rdsw    = 293.751926     prwg    = 0.5            prwb    = 0.5
+wr      = 1              wint    = 0              lint    = 3.111886e-8
+xl      = 0              xw      = -1e-8          dwg     = -2.715764e-8
+dwb     = 4.525318e-9    voff    = -0.0831119     nfactor = 1.933495
+cit     = 0              cdsc    = 2.4e-4         cdscd   = 0
+cdscb   = 0              eta0    = 0.0859596      etab    = -0.0520269
+dsub    = 0.8778821      pclm    = 2.9202527      pdiblc1 = 1.333525e-4
+pdiblc2 = 0.0334217      pdiblcb = -9.294449e-4   drout   = 9.986813e-4
+pscbe1  = 3.206395e9     pscbe2  = 9.279348e-10   pvag    = 15
+delta   = 0.01           rsh     = 7.5            mobmod  = 1
+prt     = 0              ute     = -1.5           kt1     = -0.11
+kt1l    = 0              kt2     = 0.022          ua1     = 4.31e-9
+ub1     = -7.61e-18      uc1     = -5.6e-11       at      = 3.3e4
+wl      = 0              wln     = 1              ww      = 0
+wwn     = 1              wwl     = 0              ll      = 0
+lln     = 1              lw      = 0              lwn     = 1
+lwl     = 0              capmod  = 2              xpart   = 1
+cgdo    = 6.57e-10       cgso    = 6.57e-10       cgbo    = 1e-12
+cj      = 1.186426e-3    pb      = 0.8350261      mj      = 0.4022229
+cjsw    = 1.924495e-10   pbsw    = 0.8            mjsw    = 0.3353329
+cjswg   = 4.22e-10       pbswg   = 0.8            mjswg   = 0.3353329
+cf      = 0              pvth0   = 1.522756e-3    prdsw   = 0.7164396
+pk2     = 1.500815e-3    wketa   = 0.0277401      lketa   = -1.794554e-3
+pu0     = -0.9454674     pua     = -4.22507e-11   pub     = 1e-21
+pvsat   = -50            peta0   = 1.003159e-4    pketa   = -3.89914e-3
+cjgate  = 0              nlev    = 3
+noimod  = 1              kf      = 0
}
